US06768023B2
Cycloheptane (1 ml), t-butyl nitrite (1 mmol), N-hydroxyphthalimide (0.2 mmol), and acetic acid (1 ml) were placed in a flask and were stirred at 80° C. in an atmosphere of argon gas (1 atm=0.101 MPa) for 20 hours. The resulting reaction mixture was analyzed to find that cycloheptanone oxime, nitrocycloheptane, cycloheptanone, and cycloheptyl acetate were formed in yields of 21%, 3%, 7%, and less than 1%, respectively.

reactant | Cycloheptane | 1 ml | C1CCCCCC1 | C7H14
reactant | t-butyl nitrite | 1 mmol | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-hydroxyphthalimide | 0.2 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | cycloheptanone oxime | C1(CCCCCC1)=NO | C7H13NO
reactant | nitrocycloheptane | [N+](=O)([O-])C1CCCCCC1 | C7H13NO2
reactant | cycloheptanone | C1(CCCCCC1)=O | C7H12O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | cycloheptyl acetate | C(C)(=O)OC1CCCCCC1 | C9H16O2
